US07888362B2
By a similar method as in Example 1, 7-{2-[2-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)ethoxy]ethoxy}-3,4-dihydro-1H-quinolin-2-one was prepared from 7-[2-(2-chloroethoxy)ethoxy]-3,4-dihydro-1H-quinolin-2-one, and after it was made into an ethanol solution, 1N hydrochloric acid ethanol solution was added thereto, precipitated crystals were separated by filtration, recrystallized from isopropyl alcohol-diisopropyl ether and thereby 7-{2-[2-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)ethoxy]ethoxy}-3,4-dihydro-1H-quinolin-2-one dihydrochloride was obtained in the form of a white powder.

reactant | 7-{2-[2-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)ethoxy]ethoxy}-3,4-dihydro-1H-quinolin-2-one | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCOCCOC2=CC=C1CCC(NC1=C2)=O | C25H29N3O3S
reactant | 7-[2-(2-chloroethoxy)ethoxy]-3,4-dihydro-1H-quinolin-2-one | ClCCOCCOC1=CC=C2CCC(NC2=C1)=O | C13H16ClNO3
reactant | hydrochloric acid ethanol | 1N | C(C)O.Cl
solvent | ethanol | C(C)O | C2H6O
product | 7-{2-[2-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)ethoxy]ethoxy}-3,4-dihydro-1H-quinolin-2-one dihydrochloride | Cl.Cl.S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCOCCOC2=CC=C1CCC(NC1=C2)=O | InChI=1S/C25H29N3O3S.2ClH/c29-25-7-5-19-4-6-20(18-22(19)26-25)31-16-15-30-14-13-27-9-11-28(12-10-27)23-2-1-3-24-21(23)8-17-32-24;;/h1-4,6,8,17-18H,5,7,9-16H2,(H,26,29);2*1H
